Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
acetaminophen / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Episodes of altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old R-handed M w/ PMH of TBI in ___ 
work related injury, prior multiple concussions, 
depression/anxiety, and EtOH abuse who presents with recent 
episodes of AMS. Hx obtained from pt and his father at bedside 
as well as chart review.

Father states that pt looked well yesterday evening around 
5:30pm at which time he decided to go outside for a walk alone. 
He reportedly walked to nearby ___ where he saw an old 
acquaintance who subsequently drove him home. Parents state that 
pt was gone for hours and they found him on doorstep to home in 
confused state, with poor responses to questions. Father says he 
noted pt's L eye to deviate outward during this time. Pt was 
brought into house where he slept on couch with no further 
issues. In the morning, pt looked better at breakfast. However, 
mom noticed him later at 9:30am in similar state of confusion 
with decreased responsiveness. Pt was subsequently brought to
___ ED for further evaluation, with his confusion improving by 
time of arrival. Parents are unaware of any associated abnormal 
movements, tongue biting, or urinary incontinence. Pt states 
that he can remember "bits and pieces" from last night and this 
morning, such as being at ___ and feeling confused 
(described as "looking R when meaning to look L"). Denies any
associated n/v, f/c, diaphoresis, chest pain, or SOB in last few 
days. Does endorse intermittent palpitations, but states these 
are more frequent when he lies down to go to bed at night. He 
also endorses continued holocephalic headache (which he has had 
chronically), throbbing in quality and worst over L frontal 
area.

Of note, pt was recently admitted to ___ from ___ in 
setting of multiple episodes of loss of consciousness over the 
last few months and recent routine EEG showing isolated sharp 
waves in R frontotemporal area, with no acute findings on 
laboratory and radiologic workup. He was discharged home with 48 
hr ambulatory EEG which per discussion w/ reading epileptologist 
has not shown any clear seizure activity, but did show multiple 
pushbutton events involving rapid transient increases in HR up 
to 150s. Pt and father admitted that pt may accidentally be 
taking more of his home medication than normal, with dad 
mentioning that pt has less Klonopin pills left than he should.
 
Past Medical History:
HEMOPTYSIS                                                      
POSTCONCUSSION SYNDROME                                         
ABDOMINAL PAIN                                                  
VERTIGO                                                         
INSOMNIA                                                        
RIB PAIN                                                        
THORACIC BACK PAIN                                              
SEBORRHEIC KERATOSIS                                            
SMOKER                                                          
BACK PAIN                                                       
DEPRESSION                                                      
PULMONARY NODULES                                               
INCONSISTENT URINE DRUG SCREEN RESULTS                         
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION EXAM

Vitals: T: 98 P: 115 BP: 134/89 RR: 18 O2sat: 94% NC
General: Mildly lethargic, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Lethargic, oriented to person, place, and date.
Vague historian. Moderately attentive, able to name ___ backward
with mild difficulty. Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors. Pt was able to name both high and low frequency objects. 

Speech was mildly slurred. Able to follow both midline and
appendicular commands. Pt was able to register 3 objects and
recall ___ with MCQ) at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1.5mm and brisk. L exotropia noted
w/ relatively decreased convergence on L compared to R. EOMI
without nystagmus although endorses horizontal binocular 
diplopia
in all gazes, unchanging. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
Postural tremor noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: Patchy loss of sensation to pinprick and cold 
sensation
in distal LEs and LUE. Intact proprioception throughout. No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Ataxic FNF b/l, with intact HKS.

-Gait: Good initiation. Wide based gait w/ normal stride and arm
swing, difficulty with tandem gait although not abruptly 
falling.
Jerking sway on Romberg. 

===================================================

DISCHARGE EXAM

 Vitals: T: 97.4 BP: 122/86 HR: 89 RR: 16 SaO2: 98% RA
 General: awake, cooperative, NAD
 HEENT: EEG leads in place, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, oriented x 3. Attentive, able to name ___
backwards without difficulty. Language is largely fluent (though
slightly effortful) with intact comprehension. Able to follow
both midline and appendicular commands. 

-Cranial Nerves: PERRL. EOMI without nystagmus, though with
horizontal diplopia on lateral and vertical endgaze, with 
crossed
diplopia on eye closure. Facial sensation intact to light touch.
Face symmetric at rest and with activation. Hearing intact to
conversation. Palate elevates symmetrically. ___ strength in
trapezii bilaterally. Tongue protrudes in midline.

-Motor: Normal bulk. No pronator drift bilaterally. No
adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FE IP Quad Ham TA ___
 L  5    ___  ___    5  5     5   
 R  5    ___  ___    5  5     5   

-Sensory: Intact to LT throughout. No extinction to DSS.

-DTRs: ___.

-Coordination: No action tremor or dysmetria on FNF bilaterally.
 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 08:35AM BLOOD WBC-6.7 RBC-4.06* Hgb-12.6* Hct-35.4* 
MCV-87 MCH-31.0 MCHC-35.6 RDW-13.7 RDWSD-43.3 Plt ___
___ 08:35AM BLOOD Glucose-84 UreaN-9 Creat-0.6 Na-146* 
K-3.9 Cl-103 HCO3-27 AnGap-16
___ 08:35AM BLOOD Calcium-9.5
___ 10:30AM BLOOD CLONAZEPAM-PND

MICROBIOLOGY

___ 8:35 am BLOOD CULTURE
   Blood Culture, Routine (Pending) 
___ 6:20 am BLOOD CULTURE
   Blood Culture, Routine (Pending) 
___ 5:30 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING
CHEST (PORTABLE AP)
In comparison with study of ___, there is little overall 
change.  Cardiac silhouette is within normal limits and there is 
no vascular congestion or pleural effusion.  No acute focal 
pneumonia. 

TTE
Normal biventricular cavity sizes with preserved global and 
regional biventricular systolic function. Mildly dilated aortic 
arch. No cardiac cause of syncope identified.

 
Brief Hospital Course:
HOSPITAL COURSE BY PROBLEM

1. Episodes of altered mental status: Review of ambulatory EEG 
obtained between patient's admissions as well as continuous 
video EEG during this hospitalization again did not reveal clear 
epileptiform activity on preliminary review, although changes 
consistent with his prior TBI were noted. Chest x-ray and 
laboratory testing did not reveal evidence of infection. 
Patient's mental status otherwise improved during the admission 
without intervention. Given ongoing concern for medication 
effect, a Psychiatry consultation was obtained, who recommended 
reducing quetiapine (due to patient's previously noted episodic 
sinus tachycardia), follow-up with outpatient sleep specialist, 
and considering alternatives to benzodiazepines for anxiety 
management. These concerns were also discussed with patient's 
primary care provider, who also expressed concerns regarding 
patient's opioid regimen, from which he was being weaned in the 
period preceding admission.

With respect to cardiac evaluation for syncope, transthoracic 
echocardiogram did not reveal concerning findings, and event 
monitor was ordered prior to discharge.

TRANSITIONAL ISSUES
1. Follow up event monitoring for possible arrhythmias.
2. Consider switching to a non-benzodiazepine agent for anxiety.
3. Outpatient follow-up with sleep specialist.
 
Medications on Admission:
1. ClonazePAM 2 mg PO BID:PRN anxiety 
2. Desonide 0.05% Cream 1 Appl TP DAILY 
3. DULoxetine 30 mg PO DAILY 
4. OxyCODONE (Immediate Release) 5 mg PO Q12H 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN 
6. QUEtiapine Fumarate 300 mg PO QHS 
7. Qvar (beclomethasone dipropionate) 40 mcg/actuation 
inhalation BID 

 
Discharge Medications:
1.  QUEtiapine Fumarate 250 mg PO QHS 
RX *quetiapine [Seroquel] 100 mg 2.5 (Two and a half) tablet(s) 
by mouth at bedtime Disp #*7 Tablet Refills:*0 
2.  ClonazePAM 2 mg PO BID:PRN anxiety  
3.  Desonide 0.05% Cream 1 Appl TP DAILY  
4.  DULoxetine 30 mg PO DAILY  
5.  OxyCODONE (Immediate Release) 5 mg PO Q12H  
6.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN  
7.  Qvar (beclomethasone dipropionate) 40 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient alteration in mental status

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation of two episodes of altered mental status. Your mental 
status cleared following admission, and review of your EEG (both 
from before the hospitalization and during) preliminarily did 
not show signs of seizures. Testing did not show signs of an 
infection, and an ultrasound of your heart (echocardiogram) did 
not show signs of severe heart valve disease that could have 
limited blood flow to your brain. You were also fitted with an 
event monitor prior to leaving the hospital to look for 
arrhythmias.

You were also evaluated by the Psychiatry service, who 
recommended decreasing your dose of quetiapine at night and 
talking to your outpatient providers about switching from 
clonazepam to a different medication for your anxiety. An 
appointment was also scheduled with the Sleep Clinic due to your 
sleep issues, which may be contributing to your symptoms.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___